US05814653
6-(4-fluorophenoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 6.0 mg (0.026 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 4.8 mg (0.0273 mMol) 4-fluorophenyl chloroformate, 3.8 mg (40%) of the title compound were recovered.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.026 mMol, 6.0 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-fluorophenyl chloroformate | 0.0273 mMol, 4.8 mg | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
product | 6-(4-fluorophenoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 3.8 mg, 40% | FC1=CC=C(OC(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C21H22FN3O2
